US07589232B2
Step a) Formation of ethyl (2E)-3-{4-[acetyl(4-dec-1-ynylbenzyl)amino]phenyl}acrylate
The title compound was prepared following the procedure E using ethyl (2E)-3-{4-[(4-dec-1-ynylbenzyl)amino]phenyl}acrylate and acetyl chloride as a yellow oil (97%). M+ (ESI): 460.2. HPLC, Rt: 6.0 min (purity: 98.8%).

reactant | ethyl (2E)-3-{4-[(4-dec-1-ynylbenzyl)amino]phenyl}acrylate | C(#CCCCCCCCC)C1=CC=C(CNC2=CC=C(C=C2)/C=C/C(=O)OCC)C=C1 | C28H35NO2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | ethyl (2E)-3-{4-[acetyl(4-dec-1-ynylbenzyl)amino]phenyl}acrylate | C(C)(=O)N(C1=CC=C(C=C1)/C=C/C(=O)OCC)CC1=CC=C(C=C1)C#CCCCCCCCC | C30H37NO3
